US06579883B1
8-Bromo-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
A solution of 1.38 g (3.6 mmol) of 5-tert-butoxycarbonyl-8-bromo-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one in 7 ml of dichloromethane is mixed with 7 ml of trifluoroacetic acid at room temperature. After 2 hours, the batch is diluted with water and ethyl acetate. The organic phase is separated, washed with water, saturated NaHCO3 and saturated NaCl, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography of the residue on silica gel with hexane-ethyl acetate yields 0.74 g of product.

reactant | 5-tert-butoxycarbonyl-8-bromo-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 3.6 mmol, 1.38 g | C(C)(C)(C)OC(=O)N1C(C2(C(C=3C=C(C=CC13)Br)CCC2)F)=O | C17H19BrFNO3
reactant | trifluoroacetic acid | 7 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-Bromo-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 0.74 g | BrC1=CC=2C3C(C(NC2C=C1)=O)(CCC3)F | C12H11BrFNO
